US04011230
Reaction of 3,4-dimethoxy-β -nitrostyrene with ammonium ethyldithiocarbanilate by the above procedure yields 3,4-dimethoxy-α-(nitromethyl)benzyl ethyldithiocarbanilate.

reactant | 3,4-dimethoxy-β -nitrostyrene | COC=1C=C(C=C[N+](=O)[O-])C=CC1OC | C10H11NO4
reactant | ammonium ethyldithiocarbanilate | C(C)N(C([S-])=S)C1=CC=CC=C1.[NH4+]
product | 3,4-dimethoxy-α-(nitromethyl)benzyl ethyldithiocarbanilate | C(C)N(C(SC(C1=CC(=C(C=C1)OC)OC)C[N+](=O)[O-])=S)C1=CC=CC=C1 | C19H22N2O4S2
